US04036864
A well-stirred solution of 3β, 17β-di(trifluoroacetoxy)-5α-androstane (2.5 g, 5.15 mmole, prepared by treatment of 5α-androstane-3β,17β-diol with trifluoroacetic anhydride in pyridine), nitrobenzene (800 mg, 6.5 mmole) and sodium trifluoroacetate (10 g, 73.5 mmole) in fluorotrichloromethane (45 ml) was treated with trifluoromethyl hypofluorite (8.5 mmole) at -20° for 2.5 hours, air being admitted to the reaction vessel during this time. Thereafter the solution was purged with nitrogen and the solvent was removed in vacuo. The residue was dissolved in chloroform and the resulting solution was washed with aqueous sodium bicarbonate and water and was then dried, whereafter the product was chromatographed on silica gel (125 g). Elution with chloroform:hexane (3:7) gave unreacted starting material (308 mg), while subsequent elution with chloroform:hexane (7:13) gave 3β,17β-di(trifluoroacetoxy)-9α-fluoro-5α-androstane (1.02 g), which crystallized from hexane as prisms (917 mg) m.p. 140°-142°; [α] 24D - 22° (c 1.47, CHCl3). (Found C,55.10; H,5.78; F,26.35%;m/e 502. C33H29O4F7 requires C,54.97; H,5.82; F,26.47%; M+ 502).

reactant | 3β, 17β-di(trifluoroacetoxy)-5α-androstane | 5.15 mmole, 2.5 g | FC(C(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)OC(C(F)(F)F)=O)(F)F | C23H30F6O4
reactant | nitrobenzene | 6.5 mmole, 800 mg | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | sodium trifluoroacetate | 73.5 mmole, 10 g | FC(C(=O)[O-])(F)F.[Na+]
reactant | trifluoromethyl hypofluorite | 8.5 mmole | FOC(F)(F)F | CF4O
solvent | fluorotrichloromethane | 45 ml | FC(Cl)(Cl)Cl | CCl3F
product | 3β,17β-di(trifluoroacetoxy)-9α-fluoro-5α-androstane | 1.02 g | FC(C(=O)O[C@@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC[C@@]3([C@]2(CC1)C)F)OC(C(F)(F)F)=O)(F)F | C23H29F7O4
